US05162322
5-[3-[4-(2-Ethoxyphenyl)-1-piperazinyl]propyl]-3-methyl-2-oxazolidinone.
Following the procedure of Example 5, a mixture of 5-(3-chloropropyl)-3-methyl-2-oxazolidinone (5.0 g, 0.0282 mol), 1-(2-ethoxyphenyl)piperazine monohydrochloride (6.86 g, 0.0282 mol), potassium carbonate (15.62 g, 0.113 mol), and potassium iodide (1.0 g) in n-butanol (100 mL) gave an oil (4.5 g, 46% yield). The oil was triturated in warm isopropyl ether and the resulting suspension was stirred at room temperature. The solid was collected by filtration, rinsed with light pet ether and dried under high vacuum to give 2.58 g, mp 79°-81° C.

reactant | 5-(3-chloropropyl)-3-methyl-2-oxazolidinone | 0.0282 mol, 5.0 g | ClCCCC1CN(C(O1)=O)C | C7H12ClNO2
reactant | 1-(2-ethoxyphenyl)piperazine monohydrochloride | 0.0282 mol, 6.86 g | Cl.C(C)OC1=C(C=CC=C1)N1CCNCC1
reactant | potassium carbonate | 0.113 mol, 15.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.0 g | [I-].[K+]
solvent | n-butanol | 100 mL | C(CCC)O | C4H10O
product | 5-[3-[4-(2-Ethoxyphenyl)-1-piperazinyl]propyl]-3-methyl-2-oxazolidinone | 4.5 g, 46% yield | C(C)OC1=C(C=CC=C1)N1CCN(CC1)CCCC1CN(C(O1)=O)C | C19H29N3O3
